US04400386
The nitro group is reduced catalytically, for example, in the presence of palladium on charcoal. If this reaction is carried out in the presence of acetic anhydride, the product is the compound 5-acetamido-6-fluoroquinaldine. This intermediate is further reduced catalytically in the presence of platinum on charcoal to provide the compound 5-acetamido-6-fluorotetrahydroquinaldine.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-acetamido-6-fluoroquinaldine | C(C)(=O)NC1=C2C=CC(=NC2=CC=C1F)C | C12H11FN2O
catalyst | palladium on charcoal | [Pd] | Pd
catalyst | platinum on charcoal | [Pt] | Pt
product | 5-acetamido-6-fluorotetrahydroquinaldine | C(C)(=O)NC1=C2CCC(NC2=CC=C1F)C | C12H15FN2O
